US08039639B2
2-(5-(2-(Aminomethyl)-4-fluorophenoxy)-1H-indazol-1-yl)ethanol (79A) (Method B)
To a solution of (5-fluoro-2-(1-(2-hydroxyethyl)-1H-indazol-5-yloxy)benzonitrile (1.0 g, 3.36 mmol) and NiCl26H2O (148 mg, 0.336 mmol) in MeOH (30 mL) was added NaBH4 (636 mg, 16.8 mmol) in portions (2-3), and the reaction was stirred for 3 hours. A solution of saturated Na2CO3 (15 mL) was slowly added and the mixture was stirred for 75 minutes, during which a fine solid formed. The reaction mixture was filtered thru GF/F and the cake was washed with MeOH (20 mL). The filtrate was concentrated to about 15 mL under vacuum, isopropyl acetate (20 mL) was added, and the mixture was concentrated. To the concentrate was added isopropyl acetate (20 mL) and the mixture was stirred for 5 minutes. The phases were separated, and the organic layer was washed with 10% brine (20 mL). Citric acid (0.1 M, 20 mL) was added and the phases were vigorously mixed. The organic layer was removed and the aqueous was washed with isopropyl acetate (20 mL) and EtOAc (20 mL). To the aqueous layer was added isopropyl acetate (20 mL) and 50% NaOH (1 mL) was added. The phases were vigorously mixed and the aqueous was removed. The organic was washed with 10% brine (20 mL), dried over Na2SO4 and concentrated to 850 mg (85%).

reactant | 5-fluoro-2-(1-(2-hydroxyethyl)-1H-indazol-5-yloxy)benzonitrile | 3.36 mmol, 1.0 g | FC=1C=CC(=C(C#N)C1)OC=1C=C2C=NN(C2=CC1)CCO | C16H12FN3O2
reactant | NaBH4 | 16.8 mmol, 636 mg | [BH4-].[Na+]
reactant | Na2CO3 | 15 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | MeOH | 30 mL | CO | CH4O
product | 2-(5-(2-(Aminomethyl)-4-fluorophenoxy)-1H-indazol-1-yl)ethanol | NCC1=C(OC=2C=C3C=NN(C3=CC2)CCO)C=CC(=C1)F | C16H16FN3O2
